US06194409B1
102g. {[2-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidin-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino}-acetic acid ethyl ester
A mixture of {[2-{2-(S)-Carboxy-pyrrolidin-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino}-acetic acid ethyl ester (0.240 g), 6-aminomethyl-isoquinolin-1-ylamine (0.092 g), N-methyl morpholine (0.170 mL) and 0.160 g of 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU) in 8 mL of dry N,N-dimethyl formamide was stirred for 3 h at ambient temperature. Removal of the solvent in vacuo followed by purification of the remaining residue by silica chromatography (dichloromethane/methanol 80/20) gave 0.310 g (100%) of the title compound as a light yellow solid. (+)-APCI-MS: 634 (MH+).

reactant | {[2-{2-(S)-Carboxy-pyrrolidin-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino}-acetic acid ethyl ester | 0.240 g | C(C)OC(CN(C(=O)OC(C)(C)C)[C@@H](C(=O)N1[C@@H](CCC1)C(=O)O)CC1=CC=C(C=C1)OC)=O | C24H34N2O8
reactant | 6-aminomethyl-isoquinolin-1-ylamine | 0.092 g | NCC=1C=C2C=CN=C(C2=CC1)N | C10H11N3
reactant | N-methyl morpholine | 0.170 mL | CN1CCOCC1 | C5H11NO
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.160 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethyl formamide | 8 mL | CN(C=O)C | C3H7NO
product | {[2-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidin-1-yl}-1-(R)-(4-methoxybenzyl)-2-oxo-ethyl]-tert.-butoxycarbonyl-amino}-acetic acid ethyl ester | 0.310 g, 100% | C(C)OC(CN(C(=O)OC(C)(C)C)[C@@H](C(=O)N1[C@@H](CCC1)C(NCC=1C=C2C=CN=C(C2=CC1)N)=O)CC1=CC=C(C=C1)OC)=O | C34H43N5O7
